US06313126B1
3-(1,4-Dioxa-spiro[4,5]dec-7-en-8-yl)-5-fluoro-1H-indole (1c)
5-Fluoroindole (4.96 g, 0.036 mol), 1,4-cyclohexanedione monoethylene ketal (7.17 g, 0.046 mol) and potassium hydroxide (6 g, 91 mmol) were heated to reflux in 70 ml methanol for 6 hours. The reaction was cooled and the product was isolated by filtration and washed with water to give 8.59 g (86%) of product as a white solid: mp 153-155° C.

reactant | 5-Fluoroindole | 0.036 mol, 4.96 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 1,4-cyclohexanedione monoethylene ketal | 0.046 mol, 7.17 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | potassium hydroxide | 91 mmol, 6 g | [OH-].[K+]
solvent | methanol | 70 ml | CO | CH4O
product | 3-(1,4-Dioxa-spiro[4,5]dec-7-en-8-yl)-5-fluoro-1H-indole | 8.59 g, 86% | O1CCOC12CC=C(CC2)C2=CNC1=CC=C(C=C21)F | C16H16FNO2
